US06403610B1
A mixture of 0.810 g of methyl (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]-1-[3-(2,3-difluorophenyl)prop-2-ynyl]piperidine-3-carboxylate in 8 cm3 of dioxane to which had been added 1.3 cm3 of 5N aqueous sodium hydroxide solution was stirred for 17 hours at a temperature in the region of 60° C. After cooling to approximately 20° C., the reaction mixture was evaporated under reduced pressure (5 kPa) at a temperature in the region of 50° C. The residue obtained was purified by chromatography under a nitrogen pressure of 50 kPa on a column of silica gel (particle size 20-45 μm; diameter 3 cm; mass 45 g), elution was carried out with a dichloromethane/methanol (92/8 by volume) mixture. A fraction of 275 cm3 was first collected, followed by 20-cm3 fractions. Fractions 12 to 46 were collected. These fractions were combined and concentrated under reduced pressure (5 kPa) at a temperature in the region of 35° C. The residue obtained was taken up in dichloromethane and filtered. The filtrate was evaporated as above and then the new residue obtained was triturated in 10 cm3 of diisopropyl ether. The mixture was stirred for 1 hour at a temperature in the region of 20° C. and then left for 16 hours. The solid precipitate was separated by filtration and washed with 2 times 10 cm3 of the same solvent and then with 2 times 10 cm3 of pentane. 0.47 g of (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]-1-[3-(2,3-difluorophenyl)prop-2-ynyl]piperidine-3-carboxylic acid was obtained in the form of a solid with a white color melting at 92° C.

reactant | methyl (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]-1-[3-(2,3-difluorophenyl)prop-2-ynyl]piperidine-3-carboxylate | 0.810 g | OC(CC[C@H]1[C@H](CN(CC1)CC#CC1=C(C(=CC=C1)F)F)C(=O)OC)C1=CC=NC2=CC=C(C=C12)OC | C29H30F2N2O4
reactant | sodium hydroxide | 5N, 1.3 cm3 | [OH-].[Na+]
solvent | dioxane | 8 cm3 | O1CCOCC1 | C4H8O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]-1-[3-(2,3-difluorophenyl)prop-2-ynyl]piperidine-3-carboxylic acid | 0.47 g | OC(CC[C@H]1[C@H](CN(CC1)CC#CC1=C(C(=CC=C1)F)F)C(=O)O)C1=CC=NC2=CC=C(C=C12)OC | C28H28F2N2O4
